US03996280
Preparation of Methyl 2-(2,2,2-Trifluoroethoxy)benzoate
A mixture of methyl salicylate (6.4 ml., 7.6 g., 0.05 mole), 2,2,2-trifluoroethyl trifluoromethanesulfonate (13.9 g., 0.06 mole), anhydrous potassium carbonate (13.8 g., 0.1 mole) and acetone (150 ml.) is heated under reflux with efficient stirring for three days. The product is filtered and the filtrate is concentrated to a small volume. It is diluted with cold water and the resulting precipitate is collected and washed successively with cold dilute sodium hydroxide solution and water. The desired material is recrystallized then from aqueous ethanol to afford white solid, m.p. 61-62.

reactant | methyl salicylate | 0.05 mole, 6.4 ml, 7.6 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 0.06 mole, 13.9 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | potassium carbonate | 0.1 mole, 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | Methyl 2-(2,2,2-Trifluoroethoxy)benzoate | FC(COC1=C(C(=O)OC)C=CC=C1)(F)F | C10H9F3O3
